US07393569B2
3-ethyl-3-hydroxymethyloxetane (trade name of product, OXT-101®, manufactured by To a Gosei Co.; 116 g) was added to pyridine (500 mL) and cooled to 0° C. while stirring. p-Toluene sulfonyl chloride (190 g) was added divisionally for several times. After stirring for 5 hours while keeping at 0° C., the reaction mixture was poured to iced water (1 L). It was extracted with diethyl ether (500 mL), the pH was rendered acidic with 3% hydrochloric acid, and extracts were washed with water. Then, the extracts were washed with a saturated solution of sodium carbonate and water successively and dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain 3-[(tosyloxy)methyl]3-ethyloxetane (243 g).

reactant | 3-ethyl-3-hydroxymethyloxetane | C(C)C1(COC1)CO | C6H12O2
reactant | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
reactant | p-Toluene sulfonyl chloride | 190 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 1 L | O | H2O
product | 3-[(tosyloxy)methyl]3-ethyloxetane | 243 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1(COC1)CC | C13H18O4S
